US04028370
Synthesis of 3-(N,N-dimethylcarbamoyl)-2-methylpyrazolo[1,5-a]pyridine (KC-577)
2-Methylpyrazolo[1,5-a]pyridine (3.6g) was dissolved in N,N-dimethylcarbamoyl chloride (10.8g). Aluminum chloride (8.0g) was added to the resulting solution and the mixture was heated at 130° for 3 hr and poured into ice water. The solution was made basic with potassium hydroxied solution and extracted with chloroform. The chloroform solution was dried over sodium sulfate and concentrated. The residue was distilled to give 1.8g of the objective product, bp 149°-150° (2 mmHg). Yield 32%.

reactant | 2-Methylpyrazolo[1,5-a]pyridine | 3.6g | CC1=NN2C(C=CC=C2)=C1 | C8H8N2
reactant | Aluminum chloride | 8.0g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | potassium | [K] | K
reactant | N,N-dimethylcarbamoyl chloride | 10.8g | CN(C(=O)Cl)C | C3H6ClNO
product | 3-(N,N-dimethylcarbamoyl)-2-methylpyrazolo[1,5-a]pyridine | 1.8g, Yield 32% | CN(C(=O)C=1C(=NN2C1C=CC=C2)C)C | C11H13N3O
